US06251925B1
Methyl (R)-2-[tert-butyl(dimethyl)silyl]oxy-2-(3,5-dichlorophenyl)ethanoate
A solution of methyl (R)-2-(3,5-dichlorophenyl)-2-hydroxyethanoate (10.485 g), tert-butyidimethylsilyl chloride (8.07 g), and imidazole (3.64 g) in N,N-dimethylformamide (50 mL) was stirred under nitrogen for 18 h. Volatiles were then removed under vacuum and the residue was chromatographed on silica gel, eluting with hexanelethyl acetate (20:1) The title compound was obtained as a colorless oil (15.05 g).

reactant | methyl (R)-2-(3,5-dichlorophenyl)-2-hydroxyethanoate | 10.485 g | ClC=1C=C(C=C(C1)Cl)[C@H](C(=O)OC)O | C9H8Cl2O3
reactant | tert-butyidimethylsilyl chloride | 8.07 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 3.64 g | N1C=NC=C1 | C3H4N2
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | Methyl (R)-2-[tert-butyl(dimethyl)silyl]oxy-2-(3,5-dichlorophenyl)ethanoate | 15.05 g | [Si](C)(C)(C(C)(C)C)O[C@@H](C(=O)OC)C1=CC(=CC(=C1)Cl)Cl | C15H22Cl2O3Si
